US05047411
10% Palladium on carbon (0.2 g) was added to a mixture of 2-ethylamino-6-[2-(3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole (0.5 g) in methanol (10 ml) and 1N-hydrochloric acid (10 ml) and the mixture was subjected to catalytic reduction at ambient temperature under atmospheric pressure. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. To the residue was added a mixture of ethyl acetate and water and the mixture was adjusted to pH 8 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was concentration and the residue was triturated with diethyl ether. The precipitate was collected by filtration and dried to give 2-ethylamino-6-[2-(3-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-2-yl)-ethyl]benzoxazole (0.41 g).

reactant | 2-ethylamino-6-[2-(3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole | 0.5 g | C(C)NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC=C1)C2C | C19H20N4O
reactant | hydrochloric acid | 10 ml | Cl | ClH
catalyst | Palladium on carbon | 0.2 g | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 2-ethylamino-6-[2-(3-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-2-yl)-ethyl]benzoxazole | 0.41 g | C(C)NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(CCCC1)C2C | C19H24N4O
